US09162987B2
4-Iodo-6-(isoquinolin-4-yl)pyrimidine (ACT-MIF-025)
The compound was prepared according to Example 1 using isoquinoline-4-boronic acid and 4,6-dichloropyrimidine. The resultant chloro compound was converted to iodo with hydroiodic acid as described in the general procedure.

reactant | isoquinoline-4-boronic acid | C1=NC=C(C2=CC=CC=C12)B(O)O | C9H8BNO2
reactant | 4,6-dichloropyrimidine | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | hydroiodic acid | I | HI
product | 4-Iodo-6-(isoquinolin-4-yl)pyrimidine | IC1=NC=NC(=C1)C1=CN=CC2=CC=CC=C12 | C13H8IN3
